US05854257
Trimethylsilylazide (89.1 ml) was added dropwise, with stirring, to a suspension of quinolinic anhydride (100.0 g) in dry chloroform (450 ml) under nitrogen. The mixture was stirred until nitrogen evolution had subsided (around 30 minutes) and then boiled under reflux with stirring for 45 minutes to give a solution. The mixture was cooled to ambient temperature and ethanol (40.0 ml) was added. The mixture was stirred for 20 minutes and a precipitate was collected by filtration and dried under vacuum overnight. The solid was stirred in cold acetonitrile (850 ml) and filtered. The filtrate was boiled under reflux for 15 minutes with stirring and then cooled in ice and filtered to give 4H-pyrido[2,3-d] [1,3]oxazine-2,4(1H)-dione, m.p. 213°-215° C. (with decomposition).

reactant | Trimethylsilylazide | 89.1 ml | C[Si](C)(C)N=[N+]=[N-] | C3H9N3Si
reactant | quinolinic anhydride | 100.0 g | N1=C2C(=O)OC(C2=CC=C1)=O | C7H3NO3
reactant | ethanol | 40.0 ml | C(C)O | C2H6O
solvent | chloroform | 450 ml | C(Cl)(Cl)Cl | CHCl3
product | 4H-pyrido[2,3-d] [1,3]oxazine-2,4(1H)-dione | N1C(OC(C2=C1N=CC=C2)=O)=O | C7H4N2O3
